US07309720B2
b) Ethyl(2S)-2-ethoxy-3-(4-vinylphenyl)propanoate
Tributyl(vinyl)stannane (0.98 g, 3.1 mmol) was added to a mixture of dichlorobis(triphenylphosphine)palladium(II) (95 mg, 0.13 mmol), LiCl (0.57 g, 13.5 mmol), and ethyl(2S)-2-ethoxy-3-(4-{[(trifluoromethyl)sulfonyl]oxy}phenyl)propanoate (1.00 g, 2.70 mmol) in anhydrous DMF (20 mL) under argon. The reaction mixture was heated to reflux overnight, cooled to room temperature, and poured into water. The aqueous phase was extracted with ether and the combined organic extracts were washed with water and brine, dried (MgSO4) and filtered, and the solvent was removed under reduced pressure. The crude product was chromatographed over silica gel using a mixture of ethyl acetate and heptane (20:1) as the mobile phase to afford the title compound (0.45 g, 67%).

reactant | Tributyl(vinyl)stannane | 3.1 mmol, 0.98 g | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | LiCl | 13.5 mmol, 0.57 g | [Li+].[Cl-]
reactant | ethyl(2S)-2-ethoxy-3-(4-{[(trifluoromethyl)sulfonyl]oxy}phenyl)propanoate | 2.70 mmol, 1.00 g | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C14H17F3O6S
reactant | water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.13 mmol, 95 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Ethyl(2S)-2-ethoxy-3-(4-vinylphenyl)propanoate | 0.45 g, 67% | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)C=C | C15H20O3
